### PR TITLE
[Merged by Bors] - chore (Analysis/Normed): rename `norm_mul` to `norm_mul_le`

### PR DESCRIPTION
**Pull request by loefflerd**
Rename `norm_mul` of NormedRing and cousins to `norm_mul_le`, and `norm_mul'` of `NormedDivisionRing` to `norm_mul`. Split off from #22842.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Ring/Basic.lean [hunk 1]
```diff
@@ -195,9 +201,6 @@ section NonUnitalSeminormedRing
 
 variable [NonUnitalSeminormedRing α] {a a₁ a₂ b c : α}
 
-theorem norm_mul_le (a b : α) : ‖a * b‖ ≤ ‖a‖ * ‖b‖ :=
-  NonUnitalSeminormedRing.norm_mul _ _
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Ring/Basic.lean:199]: I'd be tempted to leave this in place, so that `nnnorm_mul_le` and `norm_mul_le` are in the same namespace. You can `protected` the field to prevent issues with clashes.

Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Ring/Basic.lean:199]: >  So is there really a benefit in providing a root-level lemma that repeats the definition?

We do this in a handful of other places. Not doing it leads to things like `exact?`, `show_term` etc including the namespace, which is usually not what we want.

Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Ring/Basic.lean:199]: I think this is especially confusing since the `norm_mul_le` field is duplicated between typeclasses, and so to a casual reader its not necessarily obvious which one is the preferred one. (in the past I tried to switch things to use `extends`, but I ran out of time and gave up)

**Comment by loefflerd** [comment]
I made the rename (de-priming `NormedDivisionRing.norm_mul'`) that we discussed on the other PR. Ready for review again.

File: Mathlib/Analysis/Normed/Ring/Basic.lean [hunk 2]
```diff
@@ -195,12 +199,11 @@ section NonUnitalSeminormedRing
...
 
+/-- The norm is submultiplicative. -/
 theorem norm_mul_le (a b : α) : ‖a * b‖ ≤ ‖a‖ * ‖b‖ :=
-  NonUnitalSeminormedRing.norm_mul _ _
+  NonUnitalSeminormedRing.norm_mul_le a b
 
-theorem nnnorm_mul_le (a b : α) : ‖a * b‖₊ ≤ ‖a‖₊ * ‖b‖₊ := by
-  simpa only [← norm_toNNReal, ← Real.toNNReal_mul (norm_nonneg _)] using
-    Real.toNNReal_mono (norm_mul_le _ _)
+theorem nnnorm_mul_le (a b : α) : ‖a * b‖₊ ≤ ‖a‖₊ * ‖b‖₊ := by simpa using norm_mul_le a b
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Ring/Basic.lean:206]: I think this is just
```suggestion
theorem nnnorm_mul_le (a b : α) : ‖a * b‖₊ ≤ ‖a‖₊ * ‖b‖₊ := norm_mul_le a b
```
the `simpa` is not doing anything.

File: Mathlib/Analysis/NormedSpace/OperatorNorm/Basic.lean [hunk 3]
```diff
@@ -329,19 +329,13 @@ theorem opNorm_comp_le (f : E →SL[σ₁₂] F) : ‖h.comp f‖ ≤ ‖h‖ *
...
+  { toSeminormedAddCommGroup, ring with norm_mul_le := opNorm_comp_le }
 
 /-- For a normed space `E`, continuous linear endomorphisms form a normed algebra with
 respect to the operator norm. -/
-instance toNormedAlgebra : NormedAlgebra 𝕜 (E →L[𝕜] E) :=
-  { algebra with
-    norm_smul_le := by
-      intro c f
-      apply opNorm_smul_le c f}
+instance toNormedAlgebra : NormedAlgebra 𝕜 (E →L[𝕜] E) := ⟨opNorm_smul_le⟩
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/OperatorNorm/Basic.lean:338]: does
```suggestion
instance toNormedAlgebra : NormedAlgebra 𝕜 (E →L[𝕜] E) where
```
work?

Either way, this change feels unrelated to the rest of the PR.

File: Mathlib/NumberTheory/Padics/PadicIntegers.lean [hunk 4]
```diff
@@ -192,11 +192,10 @@ instance : Norm ℤ_[p] := ⟨fun z => ‖(z : ℚ_[p])‖⟩
 variable {p} in
 theorem norm_def {z : ℤ_[p]} : ‖z‖ = ‖(z : ℚ_[p])‖ := rfl
 
-instance : NormedCommRing ℤ_[p] :=
-  { PadicInt.instCommRing with
-    dist_eq := fun ⟨_, _⟩ ⟨_, _⟩ => rfl
-    norm_mul := by simp [norm_def]
-    norm := norm }
+instance : NormedCommRing ℤ_[p] where
+  __ := (_ : CommRing ℤ_[p])
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/Padics/PadicIntegers.lean:196]:
```suggestion
  __ := PadicInt.instCommRing
```
I don't think `_` is guaranteed to do anything useful here.

(also, this seems kind of out of scope for this change)

File: Mathlib/Analysis/NormedSpace/OperatorNorm/Basic.lean (hunk 3 above)
Comment (loefflerd) [reply Mathlib/Analysis/NormedSpace/OperatorNorm/Basic.lean:338]: It doesn't work, but `where norm_smul_le := norm_smul_le` works. It's not closely related, it's just a minor golf I noticed while working on the immediately adjacent line.

File: Mathlib/NumberTheory/Padics/PadicIntegers.lean (hunk 4 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/Padics/PadicIntegers.lean:196]: Well, it avoids having to hard-code the name of the earlier instance; I thought it was considered better style to avoid explicitly referring to the names of instances where possible. I've seen style like
```
__ : CommRing ℤ_[p] := inferInstance
```
or 
```
__ := inferInstanceAs (CommRing ℤ_[p])
```
elsewhere in the codebase.

File: Mathlib/Analysis/NormedSpace/OperatorNorm/Basic.lean (hunk 3 above)
Comment (loefflerd) [reply Mathlib/Analysis/NormedSpace/OperatorNorm/Basic.lean]: I found a nicer formulation which re-uses fields from earlier instances rather than re-declaring them. Hope that's OK.

**Review by jcommelin — COMMENTED** [review]
LGTM, although I think it would be better in the future two have two PRs: one that does only the straightforward renaming, and then another one with the golfs and cleanups.

I hope that in the future we will have tooling that makes the renaming so easy that such PRs will be basically automated, and there will be no temptation to also do cleanups because we aren't touching the codebase by hand...

**Review by jcommelin — APPROVED** [review]
